US09416135B2
To a solution of (R)-methyl 1-isopropyl-2-(4-methoxy-5-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (15 mg, 0.028 mmol) in CH2Cl2 (2 mL) was added DIBAL H (1M in toluene, 0.1 mL, 0.1 mmol) at −78° C. The mixture was stirred at −78° C. for 2 h and warmed to rt for 6 h. Sat. NH4Cl solution (1 mL) was added and the mixture was filtered. The filtrate was concentrated under vacuum. Water (5 mL) and EtOAc (5 mL) were added to the mixture. The aqueous layer was extracted with EtOAc (3×5 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by preparative TLC to afford (R)-(1-isopropyl-2-(4-methoxy-5-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methanol (3.50 mg, 24.6% yield) as a white solid. Analytical chiral HPLC: tR=6.598 min in 15 min chromatography, 94.60% ee (Method: OD-H_3_5_40_2.35 ML). LC-MS MS (ESI) m/z 500.1 [M+H]+. 1H NMR (CDCl3 300 MHz): δ 8.31 (s, 1H), 8.12 (s, 1H), 7.86 (s, 1H), 6.02-5.98 (m, 1H), 5.43-5.38 (m, 1H), 5.04-4.98 (m, 2H), 4.32-4.28 (m, 1H), 4.16 (dt, J=5.1 and 12.0 Hz, 1H), 4.01 (s, 3H), 3.77-3.68 (m, 1H), 3.21 (s, 3H), 3.11-3.06 (m, 1H), 2.50-2.47 (m, 1H), 1.30 (d, J=6.6 Hz, 3H), 1.07 (d, J=6.6 Hz, 3H).

reactant | (R)-methyl 1-isopropyl-2-(4-methoxy-5-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.028 mmol, 15 mg | C(C)(C)[C@@H]1C=2N(CCN1C1=NC=C(C(=N1)OC)C(F)(F)F)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C22H24F3N5O5S
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-(1-isopropyl-2-(4-methoxy-5-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methanol | 3.50 mg, 24.6% yield | C(C)(C)[C@@H]1C=2N(CCN1C1=NC=C(C(=N1)OC)C(F)(F)F)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)CO | C21H24F3N5O4S
